US05998433
a) Synthesis of 6-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 0.39 g (2.2 mmol) of 6-phenylhexan-1-ol and 0.38 ml (2.7 mmol) of triethylamine in 20 ml of ether, methanesulfonyl chloride was added dropwise under ice-cooling, followed by stirring for 10 minutes. The ether solution was washed with water and saturated aqueous sodium chloride, after which it was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The residual oil (crude 6-phenylhexyl methanesulfonate) was dissolved in 30 ml of acetonitrile; 0.289 g (1.811 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride and 0.76 ml (5.4 mmol) of triethylamine were added, followed by refluxing for 3 hours. The solvent was distilled off from the reaction mixture under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) to yield the desired product.

reactant | 6-phenylhexan-1-ol | 2.2 mmol, 0.39 g | C1(=CC=CC=C1)CCCCCCO | C12H18O
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.811 mmol, 0.289 g | Cl.O1C=CC2=C1CNCC2
reactant | triethylamine | 5.4 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 6-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C1(=CC=CC=C1)CCCCCCN1CC2=C(CC1)C=CO2 | C19H25NO
